US04041079
In 10 volume parts of water is dissolved 0.180 part of 3,4-dihydro-2-isopropylamino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide and with the addition of 0.2 part of 5 % palladium-on-carbon, catalytic reduction is carried out in a current of hydrogen gas. The absorption of hydrogen ceases when 9 volume parts of hydrogen has been absorbed. The catalyst is filtered off and the filtrate is freeze-dried. Finally, the residue is recrystallized from ethanol-ethyl ether. The procedure gives colorless prisms of 1,5,6-trihydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene hydrobromide. Melting point: 169° C.(decomp.)

reactant | hydrogen | [H][H] | H2
reactant | 3,4-dihydro-2-isopropylamino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide | Br.C(C)(C)NC1C(C2=CC=C(C(=C2CC1)O)O)=O
solvent | water | O | H2O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1,5,6-trihydroxy-2-isopropylamino-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.OC1C(CCC2=C(C(=CC=C12)O)O)NC(C)C | InChI=1S/C13H19NO3.BrH/c1-7(2)14-10-5-3-9-8(12(10)16)4-6-11(15)13(9)17;/h4,6-7,10,12,14-17H,3,5H2,1-2H3;1H
